US08193189B2
4-Bromo-2-fluoro-1-methanesulfonyl-benzene
In a 50 ml sealable tube is introduced 4-Bromo-2-fluoro-1-methylsulfanyl-benzene (as obtained in preparation 63, 5 g, 22.6 mmol) followed by 4.6 ml AcOH. 9.3 ml of a 30% H2O2 solution in H2O is added at RT. The tube is sealed and the resulting colorless biphasic solution is stirred at 100° C. for 2 h. After cooling, the pH of the medium is set basic with solid NaHCO3 and then extracted with CH2Cl2 several times. The combined organic layers are washed with brine, dried over Na2SO4, filtered and the filtrate is concentrated in vacuo. The title compound is obtained as a colorless solid, Rt=0.916 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min)

reactant | 4-Bromo-2-fluoro-1-methylsulfanyl-benzene | 22.6 mmol, 5 g | BrC1=CC(=C(C=C1)SC)F | C7H6BrFS
reactant | AcOH | 4.6 ml | CC(=O)O | C2H4O2
reactant | H2O2 | OO | H2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | H2O | O | H2O
product | 4-Bromo-2-fluoro-1-methanesulfonyl-benzene | BrC1=CC(=C(C=C1)S(=O)(=O)C)F | C7H6BrFO2S
